US05681844
Preparation of S-(cyanomethyl)-L-cysteine
A 360 mL aqueous solution of commercially available (Aldrich) L-cysteine hydrochloride monohydrate (60.0 g, 341.7 mole) and sodium hydroxide (27.33 g, 683.4 mole), at room temperature, is treated with a solution of bromoacetonitrile (44.5 g, 370.6 mmole) in 130 mL of dioxane over 30 minutes. The reaction is stirred for 18 hours, during which time a thick precipitate will form. The solid is filtered off, washed with diethyl ether (100 mL) and dried under high vacuum at 40° C. to give the title compound.

reactant | L-cysteine hydrochloride monohydrate | 341.7 mole, 60.0 g | O.Cl.N[C@@H](CS)C(=O)O
reactant | sodium hydroxide | 683.4 mole, 27.33 g | [OH-].[Na+]
reactant | bromoacetonitrile | 370.6 mmole, 44.5 g | BrCC#N | C2H2BrN
solvent | dioxane | 130 mL | O1CCOCC1 | C4H8O2
product | S-(cyanomethyl)-L-cysteine | C(#N)CSC[C@H](N)C(=O)O | C5H8N2O2S
